US06525042B1
1-[2-tert-Butoxycarbonyl-4-(pyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In a similar manner to Referential Example 7 except for the use of 1-[4-bromo-2-(tert-butoxycarbonyl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine and diethyl(4-pyridyl)borane as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 1-[4-bromo-2-(tert-butoxycarbonyl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | BrC1=CC(=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1)C(=O)OC(C)(C)C | C26H26BrClN2O5S
reactant | diethyl(4-pyridyl)borane | C(C)B(C1=CC=NC=C1)CC | C9H14BN
product | 1-[2-tert-Butoxycarbonyl-4-(pyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.C(C)(C)(C)OC(=O)C1=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=CC(=C1)C1=CC=NC=C1 | InChI=1S/C31H30ClN3O5S.ClH/c1-31(2,3)40-30(37)28-20-24(21-10-12-33-13-11-21)6-9-27(28)29(36)34-14-16-35(17-15-34)41(38,39)26-8-5-22-18-25(32)7-4-23(22)19-26;/h4-13,18-20H,14-17H2,1-3H3;1H
